US05318851
N-(2,2,6,6-tetramethyl-4-piperidinyl)-N'-aminooxamide was prepared by the hydrazinolysis of ethyl N-(2,2,6,6-tetramethyl-4-piperidinyl)oxamate with 64% aqueous hydrazine in methanol.

reactant | ethyl N-(2,2,6,6-tetramethyl-4-piperidinyl)oxamate | CC1(NC(CC(C1)NC(C(=O)OCC)=O)(C)C)C | C13H24N2O3
reactant | hydrazine | NN | H4N2
solvent | methanol | CO | CH4O
product | N-(2,2,6,6-tetramethyl-4-piperidinyl)-N'-aminooxamide | CC1(NC(CC(C1)NC(=O)C(=O)NN)(C)C)C | C11H22N4O2
